US04497807
3-chloro-5-methoxy-4H-1,2,6-thiadiazin-4-one
A solution of 3.66 g of 3,5-dichloro-4H-1,2,6-thiadiazin-4-one in 30 ml of methanol is kept at 0°-5° C. and stirred while a solution of 2.40 g of sodium methoxide in 30 ml of methanol is added dropwise to it. The reaction mixture is stirred at room temperature 2 hours longer, then mixed with 200 ml of ice water. The precipitate is collected, washed with water, dried, and recrystallized from hexane to yield pale yellow needles, mp 159°-161°.

reactant | 3,5-dichloro-4H-1,2,6-thiadiazin-4-one | 3.66 g | ClC1=NSN=C(C1=O)Cl | C3Cl2N2OS
reactant | sodium methoxide | 2.40 g | C[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | 3-chloro-5-methoxy-4H-1,2,6-thiadiazin-4-one | ClC1=NSN=C(C1=O)OC | C4H3ClN2O2S
